US05576322
4-(4-Chloro-3-nitrobenzyl)amino-6-chloroquinazoline
3.00 g (0.015 mol) of 4,6-dichloroquinazoline and 3.80 g (0.0170 mol) of 4-chloro-3-nitrobenzylamine hydrochloride were dissolved in a mixture comprising 100 ml of isopropyl alcohol and 15 ml of triethylamine. The obtained solution was heated under reflux for 24 hours and distilled under a reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography (chloroform/ethyl acetate) and recrystallized from chloroform/n-hexane to give 4.85 g of the title compound as a pale-yellow crystal.

reactant | 4,6-dichloroquinazoline | 0.015 mol, 3.00 g | ClC1=NC=NC2=CC=C(C=C12)Cl | C8H4Cl2N2
reactant | 4-chloro-3-nitrobenzylamine hydrochloride | 0.0170 mol, 3.80 g | Cl.ClC1=C(C=C(CN)C=C1)[N+](=O)[O-]
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | 4-(4-Chloro-3-nitrobenzyl)amino-6-chloroquinazoline | 4.85 g | ClC1=C(C=C(CNC2=NC=NC3=CC=C(C=C23)Cl)C=C1)[N+](=O)[O-] | C15H10Cl2N4O2
